US04868061
A solution of 0.01 mol of 3-[4-(hydroxyiminomethyl)phenyl]-5-methylhydantoin in diethyl ether is treated with 0.01 mol of sodium hydride. After hydrogen evolution stops, 0.011 mol of crotyl bromide is added. The reaction mixture is stirred for 2 hours. The reaction mixture is then poured into cold water, the layers are separated, and the aqueous layer is extracted with diethyl ether. The combined ether solutions are dried over MgSO4 and filtered, and the solvent is removed by rotary evaporator to yield 3-[4-(crotyloxyiminomethyl)phenyl]-5-methylhydantoin.

reactant | 3-[4-(hydroxyiminomethyl)phenyl]-5-methylhydantoin | 0.01 mol | ON=CC1=CC=C(C=C1)N1C(NC(C1=O)C)=O | C11H11N3O3
reactant | sodium hydride | 0.01 mol | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | crotyl bromide | 0.011 mol | C(C=CC)Br | C4H7Br
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 3-[4-(crotyloxyiminomethyl)phenyl]-5-methylhydantoin | C(C=CC)ON=CC1=CC=C(C=C1)N1C(NC(C1=O)C)=O | C15H17N3O3
